.subckt candidate vinp vinn vout vdd vb1 vb2 vss
* Passing reference from Example 6.11, adapted only to task port names.
M1 n4 vinp tail vss nmos w=90u l=0.4u
M2 n5 vinn tail vss nmos w=90u l=0.4u
M3 n4 vb2 n6 vdd pmos w=40u l=0.4u
M4 n5 vb2 n7 vdd pmos w=40u l=0.4u
MREF n6 n4 vdd vdd pmos w=20u l=0.4u
M6 n7 n5 vdd vdd pmos w=20u l=0.4u
M7 n10 n5 vdd vdd pmos w=20u l=0.4u
MOUT n11 n4 vdd vdd pmos w=40u l=0.4u
M9 n12 vb2 n10 vdd pmos w=20u l=0.4u
M10 vout vb2 n11 vdd pmos w=40u l=0.4u
M11 n12 vb1 n14 vss nmos w=4u l=0.4u
M12 vout vb1 n15 vss nmos w=8u l=0.4u
M13 n14 n12 vss vss nmos w=4u l=0.4u
M14 n15 n12 vss vss nmos w=8u l=0.4u
IBIAS tail vss 160u
.ends candidate
