* Complete transistor-level TIA: all verified blocks combined in one self-contained deck
* Canonical paper-matched production topology. This file contains circuit content only.
* Fully flattened: no compound X devices or subcircuit hierarchy remain.
* Active circuitry contains only resistors, capacitors, MOSFETs, and BJTs.
VCC vcc 0 3.3
VMGC mgc 0 1.4
VMC mc 0 0
VOA oa 0 1.2
* Physical resistor-divider references for 1.8 V outputs and 2.55 V follower bases.
RIFBTOP vcc ifbias 5k
RIFBBOT ifbias 0 6k
CIFBIAS ifbias 0 1n
RIBTOP vcc ifbase 3k
RIBBOT ifbase 0 10.2k
CIFBASE ifbase 0 1n
RIBREF vcc ibn 2.2k
MIBREF ibn ibn 0 0 NMOS W=10u L=.33u

* Balanced input convention used by the earlier verified reconstruction.
IINP 0 inp AC 1
IINN inn 0 AC 1

* Flattened XMODE (MODE_SWITCH_TL)
M_XMODE_PINV XMODE__mcb mc vcc vcc PMOS W=64u L=.18u
M_XMODE_NINV XMODE__mcb mc 0 0 NMOS W=32u L=.18u
M_XMODE_NMGC gc XMODE__mcb mgc 0 NMOS W=40u L=.18u
M_XMODE_PMGC gc mc mgc vcc PMOS W=80u L=.18u
M_XMODE_NAGC gc mc agc 0 NMOS W=40u L=.18u
M_XMODE_PAGC gc XMODE__mcb agc vcc PMOS W=80u L=.18u
R_XMODE_LOAD gc 0 1Meg
C_XMODE_LOAD gc 0 10f
* Flattened XCMCTRL (CMCTRL_TL)
R_XCMCTRL_REFTOP vcc XCMCTRL__fixed_gate 86.51k
R_XCMCTRL_REFBOT XCMCTRL__fixed_gate 0 100k
C_XCMCTRL_REFGATE XCMCTRL__fixed_gate 0 1n
M_XCMCTRL_REFFOLLOW vcc XCMCTRL__fixed_gate XCMCTRL__fixed 0 NMOS W=1000u L=1u
R_XCMCTRL_REFLOAD XCMCTRL__fixed 0 20k
C_XCMCTRL_REFOUT XCMCTRL__fixed 0 1n
R_XCMCTRL_BIASREF vcc XCMCTRL__nbias 5k
M_XCMCTRL_REF XCMCTRL__nbias XCMCTRL__nbias 0 0 NMOS W=40u L=.5u
R_XCMCTRL_1P vcc vc1 1200
R_XCMCTRL_1N vcc vc1b 1200
M_XCMCTRL_1P vc1 XCMCTRL__fixed XCMCTRL__s1p 0 NMOS W=40u L=.5u
M_XCMCTRL_1N vc1b gc XCMCTRL__s1n 0 NMOS W=40u L=.5u
M_XCMCTRL_1SP XCMCTRL__s1p XCMCTRL__nbias 0 0 NMOS W=40u L=.5u
M_XCMCTRL_1SN XCMCTRL__s1n XCMCTRL__nbias 0 0 NMOS W=40u L=.5u
R_XCMCTRL_DEG1 XCMCTRL__s1p XCMCTRL__s1n 47207
R_XCMCTRL_2P vcc vc2 1200
R_XCMCTRL_2N vcc vc2b 1200
M_XCMCTRL_2P vc2 XCMCTRL__fixed XCMCTRL__s2p 0 NMOS W=40u L=.5u
M_XCMCTRL_2N vc2b gc XCMCTRL__s2n 0 NMOS W=40u L=.5u
M_XCMCTRL_2SP XCMCTRL__s2p XCMCTRL__nbias 0 0 NMOS W=40u L=.5u
M_XCMCTRL_2SN XCMCTRL__s2n XCMCTRL__nbias 0 0 NMOS W=40u L=.5u
R_XCMCTRL_DEG2 XCMCTRL__s2p XCMCTRL__s2n 9680
* Flattened XTIAP (INPUT_TIA_TL)
R_XTIAP_REFLDOTOP vcc XTIAP__ldo_ref_gate 25.45k
R_XTIAP_REFLDOBOT XTIAP__ldo_ref_gate 0 100k
C_XTIAP_REFLDOGATE XTIAP__ldo_ref_gate 0 1n
M_XTIAP_REFLDO vcc XTIAP__ldo_ref_gate XTIAP__ldo_ref 0 NMOS W=1000u L=1u
R_XTIAP_REFLDOLOAD XTIAP__ldo_ref 0 20k
C_XTIAP_REFLDOOUT XTIAP__ldo_ref 0 1n
R_XTIAP_REFINTOP vcc XTIAP__in_ref_gate 144.7k
R_XTIAP_REFINBOT XTIAP__in_ref_gate 0 100k
C_XTIAP_REFINGATE XTIAP__in_ref_gate 0 1n
M_XTIAP_REFIN vcc XTIAP__in_ref_gate XTIAP__in_ref 0 NMOS W=1000u L=1u
R_XTIAP_REFINLOAD XTIAP__in_ref 0 20k
C_XTIAP_REFINOUT XTIAP__in_ref 0 1n
R_XTIAP_NLBIAS vcc XTIAP__nlbias 3k
Q_XTIAP_NLB XTIAP__nlbias XTIAP__nlbias 0 QN area=1
Q_XTIAP_NLTAIL XTIAP__nltail XTIAP__nlbias 0 QN area=1
Q_XTIAP_NL1 XTIAP__nlsense XTIAP__vtia XTIAP__nltail QN area=4
Q_XTIAP_NL2 XTIAP__ldo_gate XTIAP__ldo_ref XTIAP__nltail QN area=4
R_XTIAP_NL1 vcc XTIAP__nlsense 2.2k
R_XTIAP_NL2 vcc XTIAP__ldo_gate 2.2k
M_XTIAP_PLDO XTIAP__vtia XTIAP__ldo_gate vcc vcc PMOS W=400u L=.2u
C_XTIAP_LDO XTIAP__vtia 0 75p
C_XTIAP_CLDO XTIAP__ldo_gate XTIAP__vtia 7.5p
R_XTIAP_C XTIAP__vtia tia_p 80
Q_XTIAP_AMP tia_p inp 0 QN area=6
Q_XTIAP_BUF XTIAP__vtia tia_p XTIAP__fb QN area=1
R_XTIAP_FBREF XTIAP__vtia XTIAP__fbias 867
Q_XTIAP_FBREF XTIAP__fbias XTIAP__fbias 0 QN area=1
Q_XTIAP_FBSINK XTIAP__fb XTIAP__fbias 0 QN area=1
R_XTIAP_F XTIAP__fb inp 250
R_XTIAP_PBIAS XTIAP__pbias 0 3k
Q_XTIAP_PB XTIAP__pbias XTIAP__pbias vcc QP area=1
Q_XTIAP_PTAIL XTIAP__ptail XTIAP__pbias vcc QP area=1
Q_XTIAP_PIN XTIAP__nvin inp XTIAP__ptail QP area=4
Q_XTIAP_PIREF XTIAP__cancel_gate XTIAP__in_ref XTIAP__ptail QP area=4
R_XTIAP_POUT1 XTIAP__nvin 0 3.1k
R_XTIAP_POUT2 XTIAP__cancel_gate 0 3.1k
C_XTIAP_GATE XTIAP__cancel_gate 0 15n
M_CANCEL_P inp XTIAP__cancel_gate 0 0 NMOS W=25u L=.33u
* Flattened XTIAN (INPUT_TIA_TL)
R_XTIAN_REFLDOTOP vcc XTIAN__ldo_ref_gate 25.45k
R_XTIAN_REFLDOBOT XTIAN__ldo_ref_gate 0 100k
C_XTIAN_REFLDOGATE XTIAN__ldo_ref_gate 0 1n
M_XTIAN_REFLDO vcc XTIAN__ldo_ref_gate XTIAN__ldo_ref 0 NMOS W=1000u L=1u
R_XTIAN_REFLDOLOAD XTIAN__ldo_ref 0 20k
C_XTIAN_REFLDOOUT XTIAN__ldo_ref 0 1n
R_XTIAN_REFINTOP vcc XTIAN__in_ref_gate 144.7k
R_XTIAN_REFINBOT XTIAN__in_ref_gate 0 100k
C_XTIAN_REFINGATE XTIAN__in_ref_gate 0 1n
M_XTIAN_REFIN vcc XTIAN__in_ref_gate XTIAN__in_ref 0 NMOS W=1000u L=1u
R_XTIAN_REFINLOAD XTIAN__in_ref 0 20k
C_XTIAN_REFINOUT XTIAN__in_ref 0 1n
R_XTIAN_NLBIAS vcc XTIAN__nlbias 3k
Q_XTIAN_NLB XTIAN__nlbias XTIAN__nlbias 0 QN area=1
Q_XTIAN_NLTAIL XTIAN__nltail XTIAN__nlbias 0 QN area=1
Q_XTIAN_NL1 XTIAN__nlsense XTIAN__vtia XTIAN__nltail QN area=4
Q_XTIAN_NL2 XTIAN__ldo_gate XTIAN__ldo_ref XTIAN__nltail QN area=4
R_XTIAN_NL1 vcc XTIAN__nlsense 2.2k
R_XTIAN_NL2 vcc XTIAN__ldo_gate 2.2k
M_XTIAN_PLDO XTIAN__vtia XTIAN__ldo_gate vcc vcc PMOS W=400u L=.2u
C_XTIAN_LDO XTIAN__vtia 0 75p
C_XTIAN_CLDO XTIAN__ldo_gate XTIAN__vtia 7.5p
R_XTIAN_C XTIAN__vtia tia_n 80
Q_XTIAN_AMP tia_n inn 0 QN area=6
Q_XTIAN_BUF XTIAN__vtia tia_n XTIAN__fb QN area=1
R_XTIAN_FBREF XTIAN__vtia XTIAN__fbias 867
Q_XTIAN_FBREF XTIAN__fbias XTIAN__fbias 0 QN area=1
Q_XTIAN_FBSINK XTIAN__fb XTIAN__fbias 0 QN area=1
R_XTIAN_F XTIAN__fb inn 250
R_XTIAN_PBIAS XTIAN__pbias 0 3k
Q_XTIAN_PB XTIAN__pbias XTIAN__pbias vcc QP area=1
Q_XTIAN_PTAIL XTIAN__ptail XTIAN__pbias vcc QP area=1
Q_XTIAN_PIN XTIAN__nvin inn XTIAN__ptail QP area=4
Q_XTIAN_PIREF XTIAN__cancel_gate XTIAN__in_ref XTIAN__ptail QP area=4
R_XTIAN_POUT1 XTIAN__nvin 0 3.1k
R_XTIAN_POUT2 XTIAN__cancel_gate 0 3.1k
C_XTIAN_GATE XTIAN__cancel_gate 0 15n
M_CANCEL_N inn XTIAN__cancel_gate 0 0 NMOS W=25u L=.33u

* Physical interface 1: AC-coupled transistor followers and calibrated pad.
* Flattened XIF1P (INTERFACE_EF)
C_XIF1P_IN tia_p XIF1P__base 20p
R_XIF1P_BASE XIF1P__base ifbase 20k
Q_XIF1P_EF vcc XIF1P__base XIF1P__emitter QN area=2
M_XIF1P_BIAS XIF1P__emitter ibn 0 0 NMOS W=20u L=.33u
R_XIF1P_SER XIF1P__emitter v1p 1
R_XIF1P_SHUNT v1p ifbias 100
* Flattened XIF1N (INTERFACE_EF)
C_XIF1N_IN tia_n XIF1N__base 20p
R_XIF1N_BASE XIF1N__base ifbase 20k
Q_XIF1N_EF vcc XIF1N__base XIF1N__emitter QN area=2
M_XIF1N_BIAS XIF1N__emitter ibn 0 0 NMOS W=20u L=.33u
R_XIF1N_SER XIF1N__emitter v1n 1
R_XIF1N_SHUNT v1n ifbias 100
* Flattened XVGA1 (VGA1_TL)
R_XVGA1_CL vcc XVGA1__nl 270
R_XVGA1_CR vcc XVGA1__nr 270
Q_XVGA1_1 XVGA1__t34 v1p XVGA1__e1 QN area=3
Q_XVGA1_2 XVGA1__t56 v1n XVGA1__e2 QN area=3
R_XVGA1_E XVGA1__e1 XVGA1__e2 93
C_XVGA1_E XVGA1__e1 XVGA1__e2 1a
Q_XVGA1_3 XVGA1__nl vc1 XVGA1__t34 QN area=3
Q_XVGA1_4 vcc vc1b XVGA1__t34 QN area=3
Q_XVGA1_5 vcc vc1b XVGA1__t56 QN area=3
Q_XVGA1_6 XVGA1__nr vc1 XVGA1__t56 QN area=3
Q_XVGA1_7 vcc XVGA1__nr vga1p QN area=5
Q_XVGA1_8 vcc XVGA1__nl vga1n QN area=5
R_XVGA1_BIASREF vcc XVGA1__nbias 2.2k
M_XVGA1_BIASREF XVGA1__nbias XVGA1__nbias 0 0 NMOS W=10u L=.33u
M_XVGA1_BIAS1 XVGA1__e1 XVGA1__nbias 0 0 NMOS W=24u L=.33u
M_XVGA1_BIAS2 XVGA1__e2 XVGA1__nbias 0 0 NMOS W=24u L=.33u
M_XVGA1_BIAS3 vga1p XVGA1__nbias 0 0 NMOS W=38u L=.33u
M_XVGA1_BIAS4 vga1n XVGA1__nbias 0 0 NMOS W=38u L=.33u

* Physical interface 2: buffered low-impedance RF calibration pad.
* Flattened XIF2P (INTERFACE_EF)
C_XIF2P_IN vga1p XIF2P__base 20p
R_XIF2P_BASE XIF2P__base ifbase 20k
Q_XIF2P_EF vcc XIF2P__base XIF2P__emitter QN area=2
M_XIF2P_BIAS XIF2P__emitter ibn 0 0 NMOS W=20u L=.33u
R_XIF2P_SER XIF2P__emitter v2p 10
R_XIF2P_SHUNT v2p ifbias 100
* Flattened XIF2N (INTERFACE_EF)
C_XIF2N_IN vga1n XIF2N__base 20p
R_XIF2N_BASE XIF2N__base ifbase 20k
Q_XIF2N_EF vcc XIF2N__base XIF2N__emitter QN area=2
M_XIF2N_BIAS XIF2N__emitter ibn 0 0 NMOS W=20u L=.33u
R_XIF2N_SER XIF2N__emitter v2n 10
R_XIF2N_SHUNT v2n ifbias 100
* Flattened XVGA2 (VGA2_TL)
R_XVGA2_CL vcc XVGA2__nl 270
R_XVGA2_CR vcc XVGA2__nr 270
Q_XVGA2_1 XVGA2__t34 v2p XVGA2__e1 QN area=3
Q_XVGA2_2 XVGA2__t56 v2n XVGA2__e2 QN area=3
R_XVGA2_E XVGA2__e1 XVGA2__e2 93
C_XVGA2_E XVGA2__e1 XVGA2__e2 50f
Q_XVGA2_3 XVGA2__nl vc2 XVGA2__t34 QN area=3
Q_XVGA2_4 vcc vc2b XVGA2__t34 QN area=3
Q_XVGA2_5 vcc vc2b XVGA2__t56 QN area=3
Q_XVGA2_6 XVGA2__nr vc2 XVGA2__t56 QN area=3
Q_XVGA2_7 vcc XVGA2__nr vga2p QN area=5
Q_XVGA2_8 vcc XVGA2__nl vga2n QN area=5
R_XVGA2_BIASREF vcc XVGA2__nbias 2.2k
M_XVGA2_BIASREF XVGA2__nbias XVGA2__nbias 0 0 NMOS W=10u L=.33u
M_XVGA2_BIAS1 XVGA2__e1 XVGA2__nbias 0 0 NMOS W=24u L=.33u
M_XVGA2_BIAS2 XVGA2__e2 XVGA2__nbias 0 0 NMOS W=24u L=.33u
M_XVGA2_BIAS3 vga2p XVGA2__nbias 0 0 NMOS W=38u L=.33u
M_XVGA2_BIAS4 vga2n XVGA2__nbias 0 0 NMOS W=38u L=.33u

* Physical buffered unity-coupled interface 3.
* Flattened XIF3P (INTERFACE_EF)
C_XIF3P_IN vga2p XIF3P__base 20p
R_XIF3P_BASE XIF3P__base ifbase 20k
Q_XIF3P_EF vcc XIF3P__base XIF3P__emitter QN area=2
M_XIF3P_BIAS XIF3P__emitter ibn 0 0 NMOS W=20u L=.33u
R_XIF3P_SER XIF3P__emitter bufinp 1
R_XIF3P_SHUNT bufinp ifbias 10k
* Flattened XIF3N (INTERFACE_EF)
C_XIF3N_IN vga2n XIF3N__base 20p
R_XIF3N_BASE XIF3N__base ifbase 20k
Q_XIF3N_EF vcc XIF3N__base XIF3N__emitter QN area=2
M_XIF3N_BIAS XIF3N__emitter ibn 0 0 NMOS W=20u L=.33u
R_XIF3N_SER XIF3N__emitter bufinn 1
R_XIF3N_SHUNT bufinn ifbias 10k
* Flattened XBUF (OUTPUT_BUFFER_TL)
R_XBUF_CP vcc outp 50
R_XBUF_CN vcc outn 50
Q_XBUF_1 outp bufinp XBUF__e1 QBUF area=6
Q_XBUF_2 outn bufinn XBUF__e2 QBUF area=6
R_XBUF_E XBUF__e1 XBUF__e2 28.8
R_XBUF_BIASREF vcc XBUF__nbias 2.2k
M_XBUF_BIASREF XBUF__nbias XBUF__nbias 0 0 NMOS W=10u L=.33u
M_XBUF_BIAS1 XBUF__e1 XBUF__nbias 0 0 NMOS W=120u L=.33u
M_XBUF_BIAS2 XBUF__e2 XBUF__nbias 0 0 NMOS W=120u L=.33u
R_XBUF_LOAD outp outn 100

* Physical output pole. No controlled-source isolation is used.
RLOWP outp finalp 50
RLOWN outn finaln 50
CLOWP finalp 0 66f
CLOWN finaln 0 66f

* High-impedance physical detector tap and detector rebias.
CPKDINP finalp pkdinp 6.8p
CPKDINN finaln pkdinn 6.8p
RPKDBP pkdinp ifbias 60k
RPKDBN pkdinn ifbias 60k
* Flattened XPKD (PEAK_DETECTOR_TL)
R_XPKD_CL vcc detn 200
R_XPKD_CR vcc detp 200
Q_XPKD_8 vcc pkdinn XPKD__e8 QN area=1
Q_XPKD_7 vcc pkdinp XPKD__e7 QN area=1
Q_XPKD_1 XPKD__c1 XPKD__e8 XPKD__e1 QN area=1
Q_XPKD_2 XPKD__c2 XPKD__e7 XPKD__e2 QN area=1
R_XPKD_E1 XPKD__e1 XPKD__tail 200
R_XPKD_E2 XPKD__e2 XPKD__tail 200
Q_XPKD_3 detn pkdinn XPKD__c1 QN area=1
Q_XPKD_4 detp pkdinp XPKD__c1 QN area=1
Q_XPKD_5 detn pkdinp XPKD__c2 QN area=1
Q_XPKD_6 detp pkdinn XPKD__c2 QN area=1
R_XPKD_BIASREF vcc XPKD__nbias 2.2k
M_XPKD_BIASREF XPKD__nbias XPKD__nbias 0 0 NMOS W=10u L=.33u
M_XPKD_BIASL XPKD__e8 XPKD__nbias 0 0 NMOS W=15u L=.33u
M_XPKD_BIAST XPKD__tail XPKD__nbias 0 0 NMOS W=32u L=.33u
M_XPKD_BIASR XPKD__e7 XPKD__nbias 0 0 NMOS W=15u L=.33u
* Flattened XAGC (AGC_CONTROLLER_TL)
R_XAGC_PKDREFTOP vcc XAGC__pkd_ref_gate 133k
R_XAGC_PKDREFBOT XAGC__pkd_ref_gate 0 100k
C_XAGC_PKDREFGATE XAGC__pkd_ref_gate 0 1n
M_XAGC_PKDREF vcc XAGC__pkd_ref_gate XAGC__pkd_ref 0 NMOS W=1000u L=1u
R_XAGC_PKDREFLOAD XAGC__pkd_ref 0 20k
C_XAGC_PKDREFOUT XAGC__pkd_ref 0 1n
R_XAGC_AGCREFTOP vcc XAGC__agc_ref_gate 77.9k
R_XAGC_AGCREFBOT XAGC__agc_ref_gate 0 100k
C_XAGC_AGCREFGATE XAGC__agc_ref_gate 0 1n
M_XAGC_AGCREF vcc XAGC__agc_ref_gate XAGC__agc_ref 0 NMOS W=1000u L=1u
R_XAGC_AGCREFLOAD XAGC__agc_ref 0 20k
C_XAGC_AGCREFOUT XAGC__agc_ref 0 1n
R_XAGC_LP_P detp XAGC__lp_p 600
R_XAGC_LP_N detn XAGC__lp_n 600
C_XAGC_LP XAGC__lp_p XAGC__lp_n 150f
R_XAGC_SFREF vcc XAGC__sfbias 4.2k
Q_XAGC_SFREF XAGC__sfbias XAGC__sfbias 0 QN area=1
Q_XAGC_SFPSINK XAGC__sf_p XAGC__sfbias 0 QN area=1
Q_XAGC_SFNSINK XAGC__sf_n XAGC__sfbias 0 QN area=1
Q_XAGC_SFP vcc XAGC__lp_p XAGC__sf_p QN area=2
Q_XAGC_SFN vcc XAGC__lp_n XAGC__sf_n QN area=2
R_XAGC_PP XAGC__sf_p XAGC__op4p 40k
R_XAGC_PV XAGC__pkd_ref XAGC__op4p 560k
R_XAGC_IN XAGC__sf_n XAGC__op4n 40k
R_XAGC_FB pkd XAGC__op4n 560k
* Flattened XOP4 (CMOS_OPAMP_TL)
R_XAGC_XOP4_NB vcc XAGC_XOP4__nbias 35k
M_XAGC_XOP4_NB XAGC_XOP4__nbias XAGC_XOP4__nbias 0 0 NMOS W=10u L=1u
M_XAGC_XOP4_TAIL XAGC_XOP4__etail XAGC_XOP4__nbias 0 0 NMOS W=20u L=1u
M_XAGC_XOP4_INP XAGC_XOP4__nleft XAGC__op4n XAGC_XOP4__etail 0 NMOS W=40u L=1u
M_XAGC_XOP4_INN XAGC_XOP4__nfirst XAGC__op4p XAGC_XOP4__etail 0 NMOS W=40u L=1u
M_XAGC_XOP4_PLOADD XAGC_XOP4__nleft XAGC_XOP4__nleft vcc vcc PMOS W=20u L=1u
M_XAGC_XOP4_PLOADM XAGC_XOP4__nfirst XAGC_XOP4__nleft vcc vcc PMOS W=20u L=1u
M_XAGC_XOP4_PVAS pkd XAGC_XOP4__nfirst vcc vcc PMOS W=80u L=1u
M_XAGC_XOP4_NVAS pkd XAGC_XOP4__nbias 0 0 NMOS W=40u L=1u
C_XAGC_XOP4_COMP XAGC_XOP4__nfirst pkd 2p
C_XAGC_XOP4_OUT pkd 0 1p
* Flattened XOP5 (CMOS_OPAMP_TL)
R_XAGC_XOP5_NB vcc XAGC_XOP5__nbias 35k
M_XAGC_XOP5_NB XAGC_XOP5__nbias XAGC_XOP5__nbias 0 0 NMOS W=10u L=1u
M_XAGC_XOP5_TAIL XAGC_XOP5__etail XAGC_XOP5__nbias 0 0 NMOS W=20u L=1u
M_XAGC_XOP5_INP XAGC_XOP5__nleft pkd XAGC_XOP5__etail 0 NMOS W=40u L=1u
M_XAGC_XOP5_INN XAGC_XOP5__nfirst oa XAGC_XOP5__etail 0 NMOS W=40u L=1u
M_XAGC_XOP5_PLOADD XAGC_XOP5__nleft XAGC_XOP5__nleft vcc vcc PMOS W=20u L=1u
M_XAGC_XOP5_PLOADM XAGC_XOP5__nfirst XAGC_XOP5__nleft vcc vcc PMOS W=20u L=1u
M_XAGC_XOP5_PVAS XAGC__op5_raw XAGC_XOP5__nfirst vcc vcc PMOS W=80u L=1u
M_XAGC_XOP5_NVAS XAGC__op5_raw XAGC_XOP5__nbias 0 0 NMOS W=40u L=1u
C_XAGC_XOP5_COMP XAGC_XOP5__nfirst XAGC__op5_raw 2p
C_XAGC_XOP5_OUT XAGC__op5_raw 0 1p
R_XAGC_OP XAGC__op5_raw agc 45k
R_XAGC_GCREF agc XAGC__agc_ref 6.45k
C_XAGC_AGC agc 0 10p











.model NMOS NMOS(VTO=.55 KP=220u LAMBDA=.02)
.model PMOS PMOS(VTO=-.55 KP=100u LAMBDA=.02)
.model QN NPN(IS=1e-16 BF=200 VAF=100 IKF=50m RB=5 RC=1 RE=.2 CJE=2f CJC=1f TF=.45p TR=5p)
.model QP PNP(IS=1e-16 BF=100 VAF=60 IKF=20m RB=8 RC=1 RE=.3 CJE=3f CJC=1.5f TF=.7p TR=8p)
.model QBUF NPN(IS=1e-16 BF=200 VAF=100 IKF=100m RB=3 RC=.5 RE=.15 CJE=3f CJC=1.5f TF=.45p TR=5p)

.end
